US04022786
When proceeding as described in Example 1, but replacing 1-methyl-4-hydroxy-4-phenylpiperidine (used as starting material in said example) by 4-phenyl-4-hydroxypiperidine and reacting 17.8 g. thereof with benzene in the presence of aluminum chloride, 12.0 g. of 4,4-diphenylpiperidine hydrochloride are obtained. Said hydrochloride melts at 300° C. (with decomposition) after recrystallization from a mixture of ethanol and isopropanol. The 4,4-diphenylpiperidine base melts at 70° to 72° C.

reactant | 4-phenyl-4-hydroxypiperidine | C1(=CC=CC=C1)C1(CCNCC1)O | C11H15NO
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4,4-diphenylpiperidine hydrochloride | Cl.C1(=CC=CC=C1)C1(CCNCC1)C1=CC=CC=C1 | InChI=1S/C17H19N.ClH/c1-3-7-15(8-4-1)17(11-13-18-14-12-17)16-9-5-2-6-10-16;/h1-10,18H,11-14H2;1H
